US05804588
5-Bromo-2-t-butyloxycarbonylamino-8-methoxyquinoline
5-Bromo-8-methoxyquinoline-2-carboxylic acid (2 g), t-butanol (25 ml) and triethylamine (1.48 ml) were combined under a nitrogen atmosphere and heated to 80° C. Diphenylphosphorylazide (2.29 ml) was added to the solution and heating was continued for 60 h by which time a white preciptate was present. The reaction mixture was evaporated in vacuo onto silica and purified by flash chromatography to give the title compound (1.21 g) as an off white solid.

reactant | 5-Bromo-8-methoxyquinoline-2-carboxylic acid | 2 g | BrC1=C2C=CC(=NC2=C(C=C1)OC)C(=O)O | C11H8BrNO3
reactant | t-butanol | 25 ml | C(C)(C)(C)O | C4H10O
reactant | Diphenylphosphorylazide | 2.29 ml | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | triethylamine | 1.48 ml | C(C)N(CC)CC | C6H15N
product | 5-Bromo-2-t-butyloxycarbonylamino-8-methoxyquinoline | 1.21 g | BrC1=C2C=CC(=NC2=C(C=C1)OC)NC(=O)OC(C)(C)C | C15H17BrN2O3
